US04960766
Methanesulfonyl chloride (0.61 ml) was added to a solution of 2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetic acid (syn isomer, 0.99 g) and N,N-diisopropyl-N-ethylamine (1.33 ml) in N,N-dimethylformamide (20 ml) at -55° to -50° C., and the mixture was stirred for 10 minutes to produce an activated acid solution. To a solution of bis(trifluoroacetic acid) salts of 7β-amino-3-(2-methyl- 1-pyrazolio)methyl-3-cephem-4-carboxylate (2 g) and N,O-bis(trimethylsilyl)acetamide (3.79 ml) in tetrahydrofuran (20 ml) was added the above activated acid solution under ice-cooling, and the reaction mixture was stirred at the same temperature for an hour. The resultant mixture was poured into diethyl ether, and the precipitates were collected by filtration. The precipitates were suspended in water (20 ml), and the suspension was adjusted to pH 5 with 5% aqueous solution of sodium bicarbonate and subjected to column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" (Trademark, manufactured by Mitsubishi Chemical Industries) and eluted with 10% aqueous solution of isopropyl alcohol. The fractions containing the object compound were collected, evaporated in vacuo to remove isopropyl alcohol, and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate (syn isomer, 0.5 g).

reactant | Methanesulfonyl chloride | 0.61 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetic acid | 0.99 g | NC=1SC=C(N1)C(C(=O)O)=NOC1CSC1 | C8H9N3O3S2
reactant | N,N-diisopropyl-N-ethylamine | 1.33 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7β-amino-3-(2-methyl- 1-pyrazolio)methyl-3-cephem-4-carboxylate | 2 g | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O | C12H14N4O3S
reactant | N,O-bis(trimethylsilyl)acetamide | 3.79 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(3-thietanyloxyimino)acetamido]-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate | 0.5 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O)=NOC1CSC1 | C20H21N7O5S3
